US07074777B2
(1) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-20-(3-hydroxy-3-methylbutoxy)-20-methylpregna-5,7,16-triene
A solution of 1α,3β-bis(tert-butyldimethylsilyloxy)-20-hydroxy-20-methylpregna-5,7,16-triene (67.7 mg, 0.118 mmol), sodium hydride (60% in oil, 40.0 mg, 1.00 mmol) and 1-bromo-2,3-epoxy-3-methylbutane (100 mg, 0.606 mmol) in tetrahydrofuran (1 ml) was refluxed under heating for 1.5 hours. To the thus obtained reaction solution, was added 1.0M L-SELECTRIDE/tetrahydrofuran solution (1.2 ml, 1.2 mmol) at room temperature, followed by stirring at the same temperature for 12 hours. After cooling the reaction solution with ice, a 3N aqueous sodium hydroxide solution and then hydrogen peroxide solution were added to the reaction solution. Immediately after the addition, the mixture was diluted with ethyl acetate and washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was purified by preparative thin layer chromatography (2 sheets (each 0.5 mm thickness), hexane:ethyl acetate=15:1, developed once) to give the titled compound (72.5 mg, 93%) as a colorless oil.

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-20-hydroxy-20-methylpregna-5,7,16-triene | 0.118 mmol, 67.7 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C34H60O3Si2
reactant | sodium hydride | 1.00 mmol, 40.0 mg | [H-].[Na+]
reactant | 1-bromo-2,3-epoxy-3-methylbutane | 0.606 mmol, 100 mg | BrCC1C(C)(C)O1 | C5H9BrO
reactant | L-SELECTRIDE tetrahydrofuran | 1.2 mmol, 1.0M, 1.2 ml | CCC([BH-](C(CC)C)C(CC)C)C.[Li+].O1CCCC1
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-20-(3-hydroxy-3-methylbutoxy)-20-methylpregna-5,7,16-triene | 72.5 mg, 93% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C(C(C)(C)OCCC(C)(C)O)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C39H70O4Si2
